US04245082
Demethylation of 114 g 3,4'-dimethoxy-4-methyl-benzophenone (0.445 mole) was effected by refluxing 15 hr. with a previously prepared mixture of 313.5 ml of 48% aqueous hydrobromic acid, 148 ml of acetic anhydride, and 148 ml of acetic acid. The isolated product melted at 173°-174° C. Recrystallization from ethanol/water yielded 79 g (0.346 mole) of 3,4'-dihydroxy-4-methylbenzophenone melting at 174°-175° C.

reactant | 3,4'-dimethoxy-4-methyl-benzophenone | 0.445 mole, 114 g | COC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=CC1C | C16H16O3
reactant | hydrobromic acid | 313.5 ml | Br | BrH
reactant | acetic anhydride | 148 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 148 ml | C(C)(=O)O | C2H4O2
product | 3,4'-dihydroxy-4-methylbenzophenone | 0.346 mole, 79 g | OC=1C=C(C(=O)C2=CC=C(C=C2)O)C=CC1C | C14H12O3
